US07572816B2
1-Methyl-3-{4-[1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-benzyl}-imidazolidine-2,4-dione
Adopting the procedure outlined for example 9 using 40.0 mg (0.12 mmol) of {4-[1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-phenyl}-methanol, 0.05 mL of methanesulfonyl chloride, 0.10 mL of NEt3, 300 mg of 1-methyl-hydantoin, and 63 mg of NaH, 22.0 mg of the product was obtained.

reactant | {4-[1-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-phenyl}-methanol | 0.12 mmol, 40.0 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=C)C1=CC=C(C=C1)CO | C24H30O
reactant | methanesulfonyl chloride | 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-methyl-hydantoin | 300 mg | CN1C(=O)NC(=O)C1 | C4H6N2O2
reactant | NaH | 63 mg | [H-].[Na+]
solvent | NEt3 | 0.10 mL | CCN(CC)CC | C6H15N
product | 1-Methyl-3-{4-[1-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-vinyl]-benzyl}-imidazolidine-2,4-dione | 22.0 mg | CN1C(N(C(C1)=O)CC1=CC=C(C=C1)C(=C)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)=O | C28H34N2O2
